US06777395B2
To a solution of 5′-O-(tert-butyldiphenylsilyl)-3′-O-(3-tert-butylphenoxythiocarbonyl)-2′-O-(2-methoxyethyl)-5-methyluridine (15.0 g, 20.0 mmol) in 150 mL of benzene was added PhCH=CHSnBu3 (18.7 g, 50 mmol). The resulting solution was degassed three times with argon at rt and 45° C. After AIBN (1.0 g, 6.1 mmol) was added, the resulting solution was refluxed for 2 h. Another portion of AIBN (1.0 g, 6.1 mmol) was added after cooling to about 40° C. and refluxed for 2 h. This procedure was repeated until the starting material disappeared. The solvent was evaporated and the residue was purified by flash chromatography on a silica gel column using 10:1 and 5:1 hexanes-EtOAc as eluent to give 1.74 g of 5′-O-(tert-butyldiphenylsilyl)-3′-deoxy-2′-O-(2-methoxyethyl)-3′-(2-phenylethenyl)5-methyluridine as a white foam.

reactant | 5′-O-(tert-butyldiphenylsilyl)-3′-O-(3-tert-butylphenoxythiocarbonyl)-2′-O-(2-methoxyethyl)-5-methyluridine | 20.0 mmol, 15.0 g | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OC[C@@H]1[C@H]([C@H]([C@@H](O1)N1C(=O)NC(=O)C(=C1)C)OCCOC)OC(=S)OC1=CC(=CC=C1)C(C)(C)C | C40H50N2O8SSi
reactant | AIBN | 6.1 mmol, 1.0 g | CC(C)(C#N)N=NC(C)(C)C#N | C8H12N4
reactant | AIBN | 6.1 mmol, 1.0 g | CC(C)(C#N)N=NC(C)(C)C#N | C8H12N4
reactant | benzene | 150 mL | C1=CC=CC=C1 | C6H6
product | 5′-O-(tert-butyldiphenylsilyl)-3′-deoxy-2′-O-(2-methoxyethyl)-3′-(2-phenylethenyl)5-methyluridine | 1.74 g | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OC[C@@H]1[C@H]([C@H]([C@@H](O1)N1C(=O)NC(=O)C(=C1)C)OCCOC)C=CC1=CC=CC=C1 | C37H44N2O6Si
